US07112582B2
Step 5: (5R)-6-[Acetoxy-(7-p-nitrobenzyloxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid p-nitrobenzyl ester:
The dry acetonitrile (25 mL) solution of 7-p-nitrobenzyloxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carbaldehyde (1.6 g) was added to the dry acetonitrile (55 mL) solution of MgBr2 (2.2 g) under an nitrogen atmosphere at room temperature then the mixture was stirred for 10 min. The dry THF (80 mL) solution of (5R,6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (1.8 g) was added, the mixture was cooled to −20° C. then triethylamine (1.6 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The reaction mixture was stirred for 3 h at −20° C. and treated with 4,4-dimethylamino pyridine (58.3 mg) and acetic anhydride (0.89 mL) in one portion. The reaction mixture was warmed to 0° C. and stirred for 15 h at 0° C. 10% Citric acid aqueous solution (320 mL) was added to the reaction mixture and the aqueous layer was extracted with ethyl acetate (3×160 mL). The organic layer was washed with water, saturated sodium hydrogen carbonate and brine, dried (MgSO4) and filtered. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, eluted with CH2Cl2-acetone (20:1), and the title compound was obtained as two diastereo mixture (81:19, brown foamy amorphous solid. Yield: 2.1 g, 59.9%.

reactant | 7-p-nitrobenzyloxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carbaldehyde | 1.6 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC=3N(CC2)C=C(N3)C=O)C=C1 | C15H14N4O5
reactant | MgBr2 | 2.2 g | [Mg+2].[Br-].[Br-]
reactant | (5R,6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 1.8 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | 4,4-dimethylamino pyridine | 58.3 mg | CNC1(CC=NC=C1)NC | C7H13N3
reactant | acetic anhydride | 0.89 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Citric acid | 320 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 55 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (5R)-6-[Acetoxy-(7-p-nitrobenzyloxycarbonyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(CCN(C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C2)OC(C)=O)=O)C=C1 | C30H25BrN6O11S
